US08557876B2
A 100 mL reaction flask is charged with 1,1,2,3,3,6-hexamethyl-1,2,3,5,6,7-hexahydro-inden-4-one (prepared as described in U.S. Pat. No. 3,927,083) (10 g, 0.045 mol), formamidine acetate (23 g, 0.22 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 1,1,2,3,3,5-hexamethyl-2,3,4,5-tetrahydro-1H-7,9-diaza-cyclopenta[a]naphthalene (˜5 g) is obtained.

reactant | 1,1,2,3,3,6-hexamethyl-1,2,3,5,6,7-hexahydro-inden-4-one | CC1(C(C(C=2C(CC(CC12)C)=O)(C)C)C)C | C15H24O
reactant | formamidine acetate | 0.22 mol, 23 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 1,1,2,3,3,5-hexamethyl-2,3,4,5-tetrahydro-1H-7,9-diaza-cyclopenta[a]naphthalene | ˜5 g | CC1(C(C(C2=C1C1=NC=NC=C1C(C2)C)(C)C)C)C | C17H24N2
